US05721230
A solution of 100 mg (0.38 mmol) of 2(R or S)-[1(R or S)-amino-2-methylpropyl]-2,3-dihydro-1H-pyrrolo[1,2-a]indole hydrochloride (diastereomer A) in 30 ml of dichloromethane was treated with 110 mg (0.5 mmol) of di-tert.butyldicarbonate and 100 mg (1 mmol) of triethylamine and stirred for 72 hours. The solution was washed in succession with 30 ml of 1M hydrochloric acid and 30 ml of saturated aqueous sodium bicarbonate and then dried over magnesium sulfate. After filtration, concentration of the filtrate under reduced pressure and purification of the residue by flash chromatography using diethyl ether/petroleum ether (b.p. 40°-60° C.) (1:2) for the elution gave 100 mg of tert.butyl [1(R or S)-[2,3-dihydro-1H-pyrrolo[1,2-a]indol-2-(R or S)-yl]-2-methylpropyl]carbamate (diastereomer A) in the form of an oil.

reactant | 2,3-dihydro-1H-pyrrolo[1,2-a]indole hydrochloride | Cl.C1CCN2C1=CC=1C=CC=CC21
reactant | di-tert.butyldicarbonate | 0.5 mmol, 110 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1 mmol, 100 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2,3-dihydro-1H-pyrrolo[1,2-a]indol | C1CCN2C1=CC=1C=CC=CC21 | C11H11N
